US04246263
Using the procedures of Examples 1 to 4, 2-(4-pyridyl)ethyl chloride is reacted with 2-mercaptoethanol to yield 4-[2-(2-hydroxyethylthio)ethyl]pyridine, with 3-mercapto-2-butanol to yield 4-[2-(3-hydroxy-2-butylthio)ethyl]pyridine, with 3-mercapto-1,2-propanediol to yield 4-[2-(2,3-dihydroxy-1-propylthio)ethyl]pyridine, with 2-mercaptophenol to yield 4-[2-(2-hydroxyphenylthio)ethyl]pyridine, with methyl mercaptoacetate (preferably in methanol rather than ethanol solution) to yield methyl 2-[2-(4-pyridyl)ethylthio]acetate and with mercaptoacetone to yield 2-(4-pyridyl)ethylthioacetone.

reactant | 2-(4-pyridyl)ethyl chloride | N1=CC=C(C=C1)CCCl | C7H8ClN
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | 4-[2-(2-hydroxyethylthio)ethyl]pyridine | OCCSCCC1=CC=NC=C1 | C9H13NOS
